US04703053
A mixture of 57.1 g (0.31 mole) of 2-hydroxy-3-methoxybenzoic acid, methyl ester, 95.5 g (0.69 mole) of anhydrous potassium carbonate, and 23.9 ml (28.5 g; 0.38 mole) of chloroacetonitrile in 260 ml of N,N-dimethylformamide is heated on the steam bath for three hours. The mixture is cooled, added to 1700 g of ice/water, stirred for 1 hour, and the precipitated crude product is filtered and washed with water. Recrystallization from aqueous methanol yields 52.5 g 77% yield) of the 2-cyanoethoxy-3-methoxybenzoic acid, methyl ester, mp 77°-78° C. (See U.S. Pat. No. 4,420,476 for mp of 74°-75° C.)

reactant | 2-hydroxy-3-methoxybenzoic acid, methyl ester | 0.31 mole, 57.1 g | OC1=C(C(=O)OC)C=CC=C1OC | C9H10O4
reactant | potassium carbonate | 0.69 mole, 95.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetonitrile | 0.38 mole, 23.9 ml, 28.5 g | ClCC#N | C2H2ClN
solvent | N,N-dimethylformamide | 260 ml | CN(C=O)C | C3H7NO
product | 2-cyanoethoxy-3-methoxybenzoic acid, methyl ester | 77% yield | C(#N)CCOC1=C(C(=O)OC)C=CC=C1OC | C12H13NO4
